US05929236
Add 10 mL of NEt3 to a solution of 9.2 mL of ethyl 4-bromocrotonate and 4 mL of 2-methylaziridine in 100 mL of THF. Stir for 60 h, during which time a white precipitate forms. Dilute the reaction mixture with 300 mL of EtOAc and wash with water and then with brine. Dry the organic solution over MgSO4, filter, and concentrate in vacuo to yield 6.7 g of crude product. Purify by flash chromatography (silica gel, 1:4 hexane/EtOAc) to yield 5.2 g of E-4-(2-methyl-1-aziridinyl)-2-butenoic acid ethyl ester.

reactant | NEt3 | 10 mL | CCN(CC)CC | C6H15N
reactant | ethyl 4-bromocrotonate | 9.2 mL | BrC/C=C/C(=O)OCC | C6H9BrO2
reactant | 2-methylaziridine | 4 mL | CC1NC1 | C3H7N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | E-4-(2-methyl-1-aziridinyl)-2-butenoic acid ethyl ester | 5.2 g | C(C)OC(\C=C\CN1C(C1)C)=O | C9H15NO2
